US05998433
b) Synthesis of N,N-dimethyl-(6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine
To a solution of 0.722 g (3.294 mmol) of 6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 50 ml of acetic acid, 0.36 g (4.0 mmol) of 50% aqueous dimethylamine and 0.32 g (4.0 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1.5 hours. After the solvent was distilled off under reduced pressure, the residue was diluted with water, gently poured into ice-cooled aqueous sodium hydrogen carbonate, and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 3.294 mmol, 0.722 g | FC(C(=O)N1CC2=C(CC1)C=CO2)(F)F | C9H8F3NO2
reactant | dimethylamine | 4.0 mmol, 0.36 g | CNC | C2H7N
reactant | formaldehyde | 4.0 mmol, 0.32 g | C=O | CH2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-(6-trifluoroacetyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl)amine | CN(C)CC1=CC2=C(CN(CC2)C(C(F)(F)F)=O)O1 | C12H15F3N2O2
